US06326369B1
8-(5,6-Dimethoxy-2-phenyl-4,7-dioxoindan-2-yl)octanoic acid
To a mixture of 8-(4,5,6,7-tetramethoxy-2-phenylindan-2-yl)octanoic acid (465 mg), 2,6-pyridinedicarboxylic acid (511 mg), THF (10 ml), and water (5 ml) was dropwise added a solution of CAN (2.22 g) in water (5 ml) with cooling with ice. After the reaction mixture was stirred for 15 min, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (hexane to hexane:ethyl acetate=2:1) and then with recrystallization from hexane-diethyl ether to yield the entitled compound (220 mg) as crystals.

reactant | 8-(4,5,6,7-tetramethoxy-2-phenylindan-2-yl)octanoic acid | 465 mg | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)(C1=CC=CC=C1)CCCCCCCC(=O)O | C27H36O6
reactant | 2,6-pyridinedicarboxylic acid | 511 mg | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | CAN | 2.22 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | water | 5 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 8-(5,6-Dimethoxy-2-phenyl-4,7-dioxoindan-2-yl)octanoic acid | 220 mg | COC=1C(C=2CC(CC2C(C1OC)=O)(C1=CC=CC=C1)CCCCCCCC(=O)O)=O | C25H30O6
